US04039587
Preparation of pentabromophenyl-(4-methylbenzyl) ether:
600 ml. of methyl glycol, 97.75 g (0.2 mole) of pentabromophenol, 8 g (0.2 mole) of sodium hydroxide in 8 ml of water, and 28.12 g (0.2 mole) of 1-chloromethyl-4-methyl-benzene were reacted in the manner previously described. At 65° C. the reaction perceptibly commenced. The ether crystallized in long needles during the refluxing of the mixture. Yield: 96 g (81%), M.P. 194° C. 10 g recrystallized from 300 ml of methoxyethyl chloride had a melting point of 200°-202° C.

reactant | methyl glycol | COCCO | C3H8O2
reactant | pentabromophenol | 0.2 mole, 97.75 g | BrC1=C(C(=C(C(=C1O)Br)Br)Br)Br | C6HBr5O
reactant | sodium hydroxide | 0.2 mole, 8 g | [OH-].[Na+]
reactant | 1-chloromethyl-4-methyl-benzene | 0.2 mole, 28.12 g | ClCC1=CC=C(C=C1)C | C8H9Cl
solvent | water | 8 ml | O | H2O
product | pentabromophenyl-(4-methylbenzyl) ether | BrC1=C(C(=C(C(=C1C(C1=CC=C(C=C1)C)OC(C1=CC=C(C=C1)C)C1=C(C(=C(C(=C1Br)Br)Br)Br)Br)Br)Br)Br)Br | C28H16Br10O
